US06380218B1
2-[4-(1-Hydroxy-1-methyl-ethyl)-cyclohex-1-enylmethyl]-isoindole-1,3-dione
To a stirred solution of 2-(4-Hydroxymethyl-cyclohex-3-enyl)-propan-2-ol (5.765 grams, 34.270 mmole), Phthalimide (6.50 grams, 44.208 mmole), and triphenyl phosphene (11.60 grams, 44.208 mmole) in tetrahydrofuran (200 ml) at room temperature was added DIAD (9.010 grams, 44.552 mmole) dropwise, and the peach mixture was stirred at room temperature over night. The mixture was quenched with 150 ml water and extracted with 2×100 ml ethyl acetate. It was then concentrated to a yellow residue. This was taken up in diethyl ether, diluted with hexane, chilled and filtered. The crude product was purified via flash chromatography on silica using 50% ethyl acetate/hexane as eluent to give a yellow gum (5.73 g). MW 299.373; MS (m/e) 279 (M+−18).

reactant | 2-(4-Hydroxymethyl-cyclohex-3-enyl)-propan-2-ol | 34.270 mmole, 5.765 grams | OCC1=CCC(CC1)C(C)(C)O | C10H18O2
reactant | Phthalimide | 44.208 mmole, 6.50 grams | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | DIAD | 44.552 mmole, 9.010 grams | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-[4-(1-Hydroxy-1-methyl-ethyl)-cyclohex-1-enylmethyl]-isoindole-1,3-dione | 5.73 g | OC(C)(C)C1CC=C(CC1)CN1C(C2=CC=CC=C2C1=O)=O | C18H21NO3
